US08258306B2
To a solution of (3R)-3-methyl-1-(6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-yl)piperazine (620 mg, 2.537 mmol) in MeCN was added methyl 2-bromoacetate (466 mg, 3.044 mmol) followed by diisopropylethylamine (0.884 ml, 5.074 mmol). The reaction mixture was stirred at rt for 5 h. The solvent was evaporated under high vacuum and the residue was loaded on column (SiO2, hexane to hexane/EtOAc=100:10 to 100:20 to 100:30 to 100:40) to give methyl 2-((R)-2-methyl-4-(6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-yl)piperazin-1-yl)acetate (800 mg, 99.6% yield) as a gum.

reactant | (3R)-3-methyl-1-(6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-yl)piperazine | 2.537 mmol, 620 mg | C[C@@H]1CN(CCN1)C1CCCCC2=C1C=CC=C2 | C16H24N2
reactant | methyl 2-bromoacetate | 3.044 mmol, 466 mg | BrCC(=O)OC | C3H5BrO2
reactant | diisopropylethylamine | 5.074 mmol, 0.884 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | MeCN | CC#N | C2H3N
product | methyl 2-((R)-2-methyl-4-(6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-yl)piperazin-1-yl)acetate | 800 mg, 99.6% yield | C[C@H]1N(CCN(C1)C1CCCCC2=C1C=CC=C2)CC(=O)OC | C19H28N2O2
